US05217976
A mixture of 4-amino-2,6-diethylpyridine-3-carbaldehyde (40 g) and (carboxymethylene)triphenylphosphorane (82.5 g) in toluene (1 l) was stirred and heated at reflux for 3 hours. The solution was cooled and the solvent was removed by evaporation. A solution of sodium (20 g) in methanol (800 ml) was added to the residue and the resulting solution was heated at reflux for 4 hours. Methanol was removed by evaporation and water (500 ml) was added. The mixture was acidified to pH 1-2 by addition of concentrated hydrochloric acid. The mixture was then extracted with ethyl acetate (2×500 ml) and ether (1×500) and the extracts were discarded. The aqueous phase was then basified by addition of solid potassium carbonate and the solid which crystallised was collected by filtration and washed with water. The solid was recrystallised from acetone to give 5,7-diethyl-1,6-naphthyridin-2(1H)-one (34.6 g), m.p. 168°-169° C.; NMR (d6 -DMSO): 1.24(dt, 6H), 2.72(q, 2H), 3.0(q,2H), 6.46(d, 1H), 6.9(s, 1H), 8.07(d, 1H); mass spectrum (CI: 203 (M+H)+ ; microanalysis, found: C, 70.9; H, 6.9; N, 13.8%; C12H14N2O requires: C, 71.3; H, 6.98; N, 13.9%.

reactant | 4-amino-2,6-diethylpyridine-3-carbaldehyde | 40 g | NC1=C(C(=NC(=C1)CC)CC)C=O | C10H14N2O
reactant | (carboxymethylene)triphenylphosphorane | 82.5 g | C(=O)(O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H17O2P
solvent | toluene | 1 l | C1(=CC=CC=C1)C | C7H8
product | 5,7-diethyl-1,6-naphthyridin-2(1H)-one | 34.6 g | C(C)C1=C2C=CC(NC2=CC(=N1)CC)=O | C12H14N2O
